US07199239B2
Intermediate 86: Ethyl (2-ethyl-4-formylphenoxy)acetate
To a solution of ethyl [2-ethyl-4-(hydroxymethyl)phenoxy]acetate (2.74 g, 11.5 mmol) in chloroform (250 mL) was added manganese dioxide (10 g, 11.5 mmol). The resulting mixture was stirred for 18 h at room temperature. The mixture was filtered through a celite pad and then concentrated in vacuo to afford the title compound as a pale yellow oil (2.7 g).

reactant | ethyl [2-ethyl-4-(hydroxymethyl)phenoxy]acetate | 11.5 mmol, 2.74 g | C(C)C1=C(OCC(=O)OCC)C=CC(=C1)CO | C13H18O4
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 11.5 mmol, 10 g | [O-2].[O-2].[Mn+4]
product | Ethyl (2-ethyl-4-formylphenoxy)acetate | 2.7 g | C(C)C1=C(OCC(=O)OCC)C=CC(=C1)C=O | C13H16O4
